US09382228B2
A solution of adamantane-1-carboxylic acid (2.00 g, 11.10 mmol) in EtOAc (20 mL) was treated with CDI (2.00 g, 12.33 mmol), stirred at RT for 20 minutes, treated with NH4OH (˜14M, 5 mL, ˜70 mmol) and stirred at RT for 20 minutes. The mixture was concentrated to dryness, treated with satd. NaHCO3 and the solids collected via filtration and dried to afford adamantane-1-carboxamide (1.74 g, 87%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 6.91 (s, 1H), 6.65 (s, 1H), 1.92 (m, 3H), 1.74-1.71 (m, 6H), 1.68-1.57 (m, 6H); MS (ESI) m/z: 180.1 (M+H+).

reactant | adamantane-1-carboxylic acid | 11.10 mmol, 2.00 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | CDI | 12.33 mmol, 2.00 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | ˜70 mmol, ˜14M, 5 mL | [NH4+].[OH-]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | adamantane-1-carboxamide | 1.74 g, 87% | C12(CC3CC(CC(C1)C3)C2)C(=O)N | C11H17NO
